US08754089B2
To a suspension of 2-(1-(7-fluoro-3-(3-fluorophenyl)-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethylcarbamoyl)benzoic acid (0.2462 g, 0.548 mmol) in EtOH (5.48 mL, 0.548 mmol) was added concd. HCl (0.457 mL, 5.48 mmol), and the mixture was stirred under reflux. After 25 h, the mixture was cooled to rt. To the mixture was added ice water (50 mL). The aq acidic mixture (pH˜1.5) was washed with DCM (50 mL×2) to remove organic impurities. The aq mixture was then treated with satd aq NaHCO3 solution (50 mL) and extracted with DCM (50 mL×3). The combined organic layers were washed with water (50 mL×1) and brine (50 mL×1), dried over Na2SO4, filtered, and concd under reduced pressure to give 2-(1-aminoethyl)-7-fluoro-3-(3-fluorophenyl)-4H-pyrido[1,2-a]pyrimidin-4-one as a yellow foamy solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 8.88-8.93 (1H, m), 8.10 (1 H, ddd, J=9.9, 7.1, 2.9 Hz), 7.83 (1 H, dd, J=9.6, 5.7 Hz), 7.47-7.55 (1 H, m), 7.17-7.28 (3 H, m), 3.77 (1 H, q, J=6.7 Hz), 1.93 (2 H, br. s.), 1.18 (3 H, d, J=6.3 Hz); Mass Spectrum (ESI) m/e=302.0 (M+1).

reactant | 2-(1-(7-fluoro-3-(3-fluorophenyl)-4-oxo-4H-pyrido[1,2-a]pyrimidin-2-yl)ethylcarbamoyl)benzoic acid | 0.548 mmol, 0.2462 g | FC=1C=CC=2N(C(C(=C(N2)C(C)NC(=O)C2=C(C(=O)O)C=CC=C2)C2=CC(=CC=C2)F)=O)C1 | C24H17F2N3O4
reactant | EtOH | 0.548 mmol, 5.48 mL | CCO | C2H6O
reactant | HCl | 5.48 mmol, 0.457 mL | Cl | ClH
product | 2-(1-aminoethyl)-7-fluoro-3-(3-fluorophenyl)-4H-pyrido[1,2-a]pyrimidin-4-one | NC(C)C=1N=C2N(C(C1C1=CC(=CC=C1)F)=O)C=C(C=C2)F | C16H13F2N3O
